Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
persistent AMS after seizure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Dr. ___ with a diagnosis of sarcoidosis who presents with
persistent lethargy and decreased responsiveness after a
first-time seizure.

The history is provided by his wife.

He got dressed for a doctor's appointment this morning, and was
at his baseline. Then he started vomiting. When wife asked if he
was ok, he didn't respond, with closed eyes and mumbling but no
LOC, so she called ___. They arrived in 15 minutes. Both legs
were shaking slightly (adductor movements) during this time.

Of note, the wife says that she was going to request inpatient
psychiatric evaluation today at the doctor's office because she
is concerned about her husband's level of depression.

At ___, he had a 1 minute tonic clonic seizure, received
Ativan 2 mg and 2gm magnesium (level low on labs). He was
post-ictal initially but did not return to baseline. Stox and
utox neg, CBC at baseline pancytopenia, other labs wnl except
lactate 2.7. CT head negative. Neurology was consulted, but for
persistent AMS, patient transferred to ___ for further care.

In ED, per ED resident: patient follows commands intermittently,
but is not back to his baseline.

Per wife:
He is usually drowsy, lethargic and tired but usually answers 
his
wife and is able to talk normally. He has been admitted for 
these
symptoms in the past but workup was inconclusive. He has never
had a seizure.

He had vomiting from gastroparesis ___ year ago. This usually
occurs after eating. He usually maintains normal consciousness
during vomiting.

This past summer he had multiorgan failure from Tylenol 
overdose.
This was accidental.

The patient has tingling in his hands and feet chronically.

He has constipation, treated with stool softener and miralax.

Baseline: walks with walker.

Wife ___: phone number ___

Per chart review and prior workup:

The patient was recently admitted at the beginning of ___
for lymph node biopsy of mediastinal lymphadenopathy, to rule 
out
lymphoma. Pathology results are consistent with sarcoidosis and
do not show evidence of malignancy.

Prior EMG performed for complaints of weakness after Tylenol
overdose showed evidence of a mild generalized myopathy without
denervating features and generalized sensory motor 
polyneuropathy
with axonal features, felt consistent with prior steroid use
rather than sarcoid myopathy. EMG from ___ showed evidence
for a very mild length dependent sensory polyneuropathy. There 
is
no definite electrophysiologic evidence for a generalized
myopathy, though the mild myopathic findings in the right 
deltoid
may indicate a mild, proximal myopathic process. Incidental note
of a mild chronic ulnar neuropathy at the right elbow.

Hematology workup has showed normocytic normochromic anemia.
Although chart review stated that the patient has pernicious
anemia, B12 deficiency, and iron deficiency anemia, this is not
borne out by recent labs and the patient is not on supplements.
Colonoscopy was normal.
  
ROS unable to obtain.

 
Past Medical History:
Fulminant liver failure likely secondary to tylenol ingestion 
requiring 23-day hospitalization in ___ at ___
Portal hypertension with minimal ascites noted in ___, 
possibly acute ___ tylenol ingestion
Gastroparesis (confirmed with gastric emptying study ___
Sarcoidosis with extra-pulmonary symptoms (primarily myalgias 
and joint pain), previously on steroids 
Pernicious anemia
B12 deficiency
Iron deficiency anemia
Hypercholesterolemia
Diabetes Mellitus non-insulin dependent
GERD
Depression
Paroxysmal atrial fibrillation
 
Social History:
___
Family History:
Significant heart disease, stroke, MS, dementia; no known liver 
history. 
 
Physical Exam:
98.4  102  147/79  14  100% RA 
 General: lethargic, NAD.
 HEENT: NC/AT, dry MM
 Neck: Supple, no nuchal rigidity.
 Pulmonary: CTABL
 Cardiac: tachycardic, no murmurs
 Abdomen: soft, nontender, nondistended
 Extremities: no edema, pulses palpated
  
 Neurologic:
 -Mental Status: Lethargic but awake. Keeps eyes closed. In
response to questions, mumbles with an appropriate prosody and
phrase length for an answer. Occasionally has an intelligible
answer (oriented to place - hospital) or interjects an
appropriate remark in the conversation that the examiner has 
with
the wife (I was hospitalized last week). However most speech is
unintelligible. Speaks primary ___ at home, with some 
___.
Does not repeat or name. Follows simple commands inconsistently. 


-Cranial Nerves:
 I: Olfaction not tested.
 II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally. Inconsistent BTT.
 III, IV, VI: EOMI with roving fixation.
 V: unable to assess
VII: No facial droop, facial musculature symmetric 
 VIII: Hearing intact grossly.
 IX, X: unable to assess.
 XI: moves head side to side.
 XII: Tongue protrudes in midline.

 -Motor: Decreased bulk, normal tone throughout. No adventitious
movements, such as tremor, noted. No asterixis noted. Moves all
extremities symmetrically. Bic, tri, TA full strength
bilaterally; other confrontation strength testing could not be
completed.
  
 -DTRs:
     Bi  Tri  ___  Pat  Ach
 L   2    1     2     3    0
 R   2    1     2     3    0

- Plantar response was flexor bilaterally.
- Pectoralis Jerk was absent, and Crossed Adductors are present. 

  
-Sensory: responds to touch in all extremities.

-Coordination/Gait: unable to test.

 
Pertinent Results:
138  ___   AGap=17 
4.2  23  0.8   

MCV 83 

7.4 > 9.5/28.7 < 190 
 
RPR negative

___ 06:30PM   ALT(SGPT)-11 AST(SGOT)-17 CK(CPK)-27* ALK 
PHOS-82 TOT BILI-0.4
___ 06:30PM   LIPASE-19
___ 06:30PM   VIT B12-267
___ 07:39PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-MOD
___ 07:39PM URINE  RBC-0 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0

CSF ___: 3 wbc, 1 rbc, normal protein and glucose. HSV 
pending
___ CSF GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      FLUID CULTURE (Preliminary):    NO GROWTH.

CSF HSV negative 

___  Source: back incision. 
GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

MRI Brain
No acute intracranial abnormality.  No evidence of mass or 
abnormal 
enhancement. 

EEG
IMPRESSION: This is an abnormal awake and asleep EEG due to a 
disorganized 
___ Hz rhythm in the awake state, indicative of mild 
encephalopathy. 
Prominent admixed bifronto-centrally maximal admixed beta 
activity is present, perhaps accentuated as a medication effect. 
There are no epileptiform discharges or electrographic seizures. 


CTA head/neck
1. No acute intracranial abnormality. 
2. Patent intracranial vasculature without occlusion, 
dissection, significant stenosis, or aneurysm. 
3. Patent neck vasculature without occlusion, dissection, 
significant 
stenosis, or aneurysm. 
4. Paranasal sinus disease, as described, with hyperdense and 
aerosolized 
secretions within the left maxillary sinus which may be seen 
with inspissated mucus or fungal colonization. 
5. Prominent and mildly enlarged paratracheal lymph nodes, which 
are 
relatively unchanged in  comparison to ___ given 
differences and measuring technique.  Findings could be related 
to patient's history of sarcoidosis.  Recommend close attention 
to these nodes on follow-up imaging. 
 
Brief Hospital Course:
Dr. ___ is a ___ year man with sarcoidosis, severe 
depression, intermittent visual hallucination who is admitted to 
the neurology service for increased lethargy and a reported 
episode of convulsion concerning for possible seizure.  He was 
admitted for work up of first time seizure.  The primary concern 
was neuro-sarcoidosis given his recent diagnosis of 
sarcoidosis(from lymph node biopsy ___.  Lumbar puncture was 
performed on ___, showing 3wbc, 1rbc, normal protein and 
glucose, making active neurosarcoidosis and CNS 
infection/inflammatory conditions highly unlikely.  He had a 
routine EEG performed (while he was having visual 
hallucinations) and there was no epileptiform discharges.  There 
is frequent drowsiness on the EEG record but his waking 
background is largely normal.  His ankle tracking device was 
removed (with the authorization of the Sheriff's office) for MRI 
brain, which shows some non-specific chronic white matter 
changes but no acute structural finding that would explain his 
current mental status.  He was initially placed on acyclovir but 
that was discontinued due to low clinical suspicion for HSV 
encephalitis.  He remained clinically stable, afebrile and 
without leukocytosis off the acyclovir.  Tox screen (serum and 
urine) were negative.  

In terms of infectious workup, his UA is negative for UTI.  CXR 
negative.  He has serous discharge from his biopsy site on his 
back.  Thoracic team evaluated his wound and thought that it 
looks like a seroma but recommend culture and empiric PO Keflex 
x 7 days, which he completed.

The etiology of his convulsive event is unclear.  Based on the 
description of the witnessed event at OSH, it seems probable 
that it was a seizure.  He is started on levetiracetam 1000mg 
bid and should remain on it for seizure prophylaxis.  There is 
no identifiable trigger to this seizure event.  Given his 
psychiatric history, levetiracetam may not be the best long term 
anti-seizure medication for him as it can cause mood problems in 
some patients.  If that is the case, it may be reasonable to 
consider other options lamotrigine though uptitration can take a 
long time and hence not the best acute option.

He also has poor nutritional status (B12 267, Vit D 5) and is 
supplemented with B12, Vitamin D and thiamine.

Psychiatry team is consulted as his clinical picture is most 
consistent with a decompensated psychiatric disorder.  
Psychiatry feels that his presentation is most c/w depression 
and cognitive decline.  Recommended psych inpatient 
hospitalization (patient agreeable), and sleep study.

Transitional Issues:
[ ] outpatient sleep study (can be arranged through PCP after 
all his acute issues stabilize)
[ ] outpatient neuro-psychiatric testing
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. BuPROPion 75 mg PO DAILY 
3. Cyanocobalamin 1000 mcg IM/SC EVERY 4  WEEKS (___) 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Metoclopramide 10 mg PO TID 
6. Mirtazapine 30 mg PO QPM 
7. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1. Atorvastatin 80 mg PO QPM 
2. Cyanocobalamin 1000 mcg IM/SC EVERY 4  WEEKS (___) 
3. Metoclopramide 10 mg PO TID 
4. Mirtazapine 30 mg PO QPM 
5. Pantoprazole 40 mg PO Q24H 
6. Ibuprofen 600 mg PO Q8H:PRN pain 
7. LeVETiracetam 1000 mg PO BID 
8. Thiamine 100 mg PO DAILY 
9. Vitamin D ___ UNIT PO 1X/WEEK (TH) 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Seizure, severe depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neuro: nonfocal

 
Discharge Instructions:
Dear Dr. ___,

___ were admitted for seizure and intermittent hallucinations 
and vivid dreams. Your MRI was negative for acute stroke or 
other abnormality, CSF showed only 3 WBC. Your EEG was negative 
for seizure. Psychiatry came to see ___ and recommended 
inpatient psychiatry.

___ will need an outpatient sleep study given your vivid dreams.

It was a pleasure taking care of ___, and we wish ___ the best!

Sincerely,
Your ___ Team 
 
Followup Instructions:
___